US06090817
a) 4'-Methoxy-[1,1'-biphenyl]-4-carboxylic acid, ethyl ester
A stirred mixture of 4-bromobenzoic acid, ethyl ester (23.6 g, 103 mmol), 4-methoxyphenylboronic acid (15.6 g, 103 mmol), tetrakis(triphenylphosphine)palladium (0) (2.0 g, 1.73 mmol) and powdered caesium fluoride (30.0 g, 200 mmol) in 1,2-dimethoxyethane (300 mL) is heated at 85° C. for 3 h. The mixture is then treated with water (500 mL) and extracted with ethyl acetate (3×100 mL). The combined extracts are washed (saturated NaCl), dried (Na2SO4), filtered and the solvent is evaporated off under reduced pressure to yield the crude product which is purified by chromatography (silica gel, 5% ethyl acetate/95% cyclohexane) to 4'-methoxy-[1,1'-biphenyl]-4-carboxylic acid, ethyl ester as a colourless crystalline solid. m.p. 103-104° C.

reactant | 4-bromobenzoic acid, ethyl ester | 103 mmol, 23.6 g | BrC1=CC=C(C(=O)OCC)C=C1 | C9H9BrO2
reactant | 4-methoxyphenylboronic acid | 103 mmol, 15.6 g | COC1=CC=C(C=C1)B(O)O | C7H9BO3
reactant | caesium fluoride | 200 mmol, 30.0 g | [F-].[Cs+]
reactant | water | 500 mL | O | H2O
solvent | 1,2-dimethoxyethane | 300 mL | COCCOC | C4H10O2
catalyst | tetrakis(triphenylphosphine)palladium | 1.73 mmol, 2.0 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 4'-Methoxy-[1,1'-biphenyl]-4-carboxylic acid, ethyl ester | COC1=CC=C(C=C1)C1=CC=C(C=C1)C(=O)OCC | C16H16O3
